US04906669
2-(3,7,11,15-Tetramethyl-2-hexadecenyl)-1,3,5-triacetoxybenzene (Compound 27)
2-(3,7,11,15-Tetramethyl-2-hexadecenyl)-1,3,5-benzenetriol (1.00 g;2.47 mmole) was dissolved in 10 ml of pyridine and 833 mg (8.16 mmole) of acetic anhydride was added thereto with ice-cooling, followed by bringing it back to room temperature, stirring for 4 hours, removing the solvent by distillation and subjecting the resulting residue to silica gel column chromatography to thereby recover 0.77 g of the title compound from the fractions eluted with hexane-ethyl acetate (5:1). Yield=59%.

reactant | 2-(3,7,11,15-Tetramethyl-2-hexadecenyl)-1,3,5-benzenetriol | 2.47 mmole, 1.00 g | CC(=CCC1=C(C=C(C=C1O)O)O)CCCC(CCCC(CCCC(C)C)C)C | C26H44O3
reactant | acetic anhydride | 8.16 mmole, 833 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3,7,11,15-Tetramethyl-2-hexadecenyl)-1,3,5-triacetoxybenzene | Yield=59% | CC(=CCC1=C(C=C(C=C1OC(C)=O)OC(C)=O)OC(C)=O)CCCC(CCCC(CCCC(C)C)C)C | C32H50O6
